US06528504B2
5,11-Dihydro-5-[2-(N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine (245 mg, 0.96 mmol), 3-(4-methoxyphenyl)propyl mesylate (353 mg, 1.45 mmol), sodium carbonate (154 mg, 1.45 mmol) and sodium iodide (20 mg, 0.13 mmol) were added to acetonitrile (25 ml), and they were heated under reflux at 90° C. for 6 hours. The solvent was evaporated under reduced pressure. The obtained residue was distributed in ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and hexane (1:2) and then with dichloromethane. The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain 5,11-dihydro-5-[2-[N-[3-(4-methoxyphenyl)propyl]-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (101 mg, 26%).

reactant | 5,11-Dihydro-5-[2-(N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine | 0.96 mmol, 245 mg | CNCCN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C16H18N2O
reactant | 3-(4-methoxyphenyl)propyl mesylate | 1.45 mmol, 353 mg | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)OC | C11H16O4S
reactant | sodium carbonate | 1.45 mmol, 154 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5,11-dihydro-5-[2-[N-[3-(4-methoxyphenyl)propyl]-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine | COC1=CC=C(C=C1)CCCN(C)CCN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C26H30N2O2
